US08034811B2
2-[(Thiazol-5-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1J, starting from anthranilic acid methyl ester and thiazole-5-carboxaldehyde (Combi-Blocks). 13C-NMR (DMSO-d6) δ 169.8, 153.6, 149.9, 140.8, 137.9, 134.3, 131.6, 115.0, 111.6, 110.7, 38.3.

reactant | anthranilic acid methyl ester | COC(C=1C(N)=CC=CC1)=O | C8H9NO2
reactant | thiazole-5-carboxaldehyde | S1C=NC=C1C=O | C4H3NOS
product | 2-[(Thiazol-5-ylmethyl)-amino]-benzoic acid | S1C=NC=C1CNC1=C(C(=O)O)C=CC=C1 | C11H10N2O2S
